### PR TITLE
[Merged by Bors] - feat(RingTheory/Flat): free and projective modules over a `CommRing` are flat

### PR DESCRIPTION
**Pull request by robin-carlier**
Prove that flat modules are stable under retracts, isomorphisms and direct sums. Use this to deduce that free and projective modules are flat.
 
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Flat.lean [hunk 1]
```diff
@@ -76,6 +99,100 @@ instance self (R : Type u) [CommRing R] : Flat R R :=
...
+  have h₃ := h₂ hI
+  simp only [coe_comp, LinearEquiv.coe_coe, Function.comp_apply, AddEquivClass.map_eq_zero_iff,
+    h₃, LinearMap.map_eq_zero_iff] at f
+  simp [f]
+
+set_option linter.unusedVariables false in
+/-- Free `R`-modules over discrete types are flat. -/
+instance finsupp (R : Type u) [CommRing R] (ι : Type v) [dec_ι : DecidableEq ι] :
+    Flat R (ι →₀ R) :=
+  of_iso R _ _ (finsuppLEquivDirectSum R R ι) (directSum R ι _ (fun _ ↦ (self R)))
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat.lean:176]:
```suggestion
/-- Free `R`-modules over discrete types are flat. -/
instance finsupp (R : Type u) [CommRing R] (ι : Type v) :
    Flat R (ι →₀ R) :=
  let _ := Classical.decEq ι
  of_iso R _ _ (finsuppLEquivDirectSum R R ι) (directSum R ι _ (fun _ ↦ (self R)))
```

File: Mathlib/RingTheory/Flat.lean [hunk 2]
```diff
@@ -76,6 +99,100 @@ instance self (R : Type u) [CommRing R] : Flat R R :=
       lift.tmul, Submodule.subtype_apply, Algebra.id.smul_eq_mul, lsmul_apply]⟩
 #align module.flat.self Module.Flat.self
 
+
+/-- A retract of a flat `R`-module is flat. -/
+lemma of_retract (R : Type u) (M : Type v) (N : Type w)
+    [CommRing R] [AddCommGroup M] [AddCommGroup N] [Module R M] [Module R N]
+    (i : N →ₗ[R] M) (r : M →ₗ[R] N) (h : r.comp i = LinearMap.id)
+    (f : Flat R M) : Flat R N := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat.lean:107]: Is there a reason why `f` is not an instance argument? (same below)

File: Mathlib/RingTheory/Flat.lean [hunk 3]
```diff
@@ -76,6 +99,100 @@ instance self (R : Type u) [CommRing R] : Flat R R :=
...
+    [Module R M] [Module R N] (e : N ≃ₗ[R] M) (f : Flat R M) : Flat R N := by
+  have h : e.symm.toLinearMap.comp e.toLinearMap = LinearMap.id := by simp
+  exact of_retract _ _ _ e.toLinearMap e.symm.toLinearMap h f
+
+open DirectSum
+
+/-- A direct sum of flat `R`-modules is flat. -/
+lemma directSum (R : Type u) [CommRing R] (ι : Type v) [dec_ι : DecidableEq ι] (M : ι → Type w)
+    [(i : ι) → AddCommGroup (M i)] [(i : ι) → Module R (M i)] (F : (i : ι) → (Flat R (M i))) :
+    Flat R (⨁ i, M i) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat.lean:134]:
```suggestion
lemma directSum (R : Type u) [CommRing R] (ι : Type v) (M : ι → Type w)
    [(i : ι) → AddCommGroup (M i)] [(i : ι) → Module R (M i)] (F : (i : ι) → (Flat R (M i))) :
    Flat R (⨁ i, M i) := by
  classical
```

File: Mathlib/RingTheory/Flat.lean [hunk 4]
```diff
@@ -76,6 +99,100 @@ instance self (R : Type u) [CommRing R] : Flat R R :=
...
+    h₃, LinearMap.map_eq_zero_iff] at f
+  simp [f]
+
+set_option linter.unusedVariables false in
+/-- Free `R`-modules over discrete types are flat. -/
+instance finsupp (R : Type u) [CommRing R] (ι : Type v) [dec_ι : DecidableEq ι] :
+    Flat R (ι →₀ R) :=
+  of_iso R _ _ (finsuppLEquivDirectSum R R ι) (directSum R ι _ (fun _ ↦ (self R)))
+
+noncomputable instance of_free (R : Type) [CommRing R] (M: Type w)
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat.lean:178]:
```suggestion
instance of_free (R : Type) [CommRing R] (M: Type w)
```
Proofs (terms of `Prop`) aren't computable by default.

File: Mathlib/RingTheory/Flat.lean [hunk 5]
```diff
@@ -76,6 +99,100 @@ instance self (R : Type u) [CommRing R] : Flat R R :=
...
+
+/-- A projective module with a discrete type of generator is flat -/
+lemma of_projective_surj (R : Type u) [CommRing R] (ι : Type v) [DecidableEq ι] (M : Type w)
+    [AddCommGroup M] [Module R M] [Projective R M] (p : (ι →₀ R) →ₗ[R] M) (hp : Surjective p) :
+    Flat R M := by
+  have h := Module.projective_lifting_property p (LinearMap.id) hp
+  cases h with
+    | _ e he => exact of_retract R _ _ _ _ he (finsupp R _)
+
+noncomputable instance of_projective (R : Type u) [CommRing R] (M : Type v) [AddCommGroup M]
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat.lean:190]:
```suggestion
instance of_projective (R : Type u) [CommRing R] (M : Type v) [AddCommGroup M]
```

**Review by erdOne — COMMENTED** [review]
Thanks for the work!
You might want to add some documentation in the top of the file.

File: Mathlib/RingTheory/Flat.lean (hunk 2 above)
Comment (robin-carlier) [reply Mathlib/RingTheory/Flat.lean]: No particular reason. I made `f` an instance argument in more cases now.

File: Mathlib/RingTheory/Flat.lean [hunk 6]
```diff
@@ -64,7 +77,25 @@ class Flat (R : Type u) (M : Type v) [CommRing R] [AddCommGroup M] [Module R M]
 
 namespace Flat
```
[the remark this answers is not in the document]
Comment (robin-carlier) [reply Mathlib/RingTheory/Flat.lean:79]: Yes, added a bunch of those (maybe too much even?)

File: Mathlib/RingTheory/Flat.lean [hunk 7]
```diff
@@ -76,6 +91,121 @@ instance self (R : Type u) [CommRing R] : Flat R R :=
       lift.tmul, Submodule.subtype_apply, Algebra.id.smul_eq_mul, lsmul_apply]⟩
 #align module.flat.self Module.Flat.self
 
+variable (M : Type v) [AddCommGroup M] [Module R M]
+
+/-- A reformulation of the flat property. -/
+lemma iff_rTensor_injective:
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat.lean:97]:
```suggestion
lemma iff_rTensor_injective :
```

**Review by erdOne — APPROVED** [review]
LGTM
maintainer merge

File: Mathlib/RingTheory/Flat.lean [hunk 8]
```diff
@@ -76,6 +91,121 @@ instance self (R : Type u) [CommRing R] : Flat R R :=
...
+  rw [← Function.Injective.of_comp_iff h₁ (rTensor N I.subtype), ← LinearMap.coe_comp]
+  rw [LinearMap.lTensor_comp_rTensor, ←LinearMap.rTensor_comp_lTensor]
+  rw [LinearMap.coe_comp, Function.Injective.of_comp_iff (f hI)]
+  apply Function.RightInverse.injective (g := lTensor _ r)
+  intro x
+  rw [← LinearMap.comp_apply, ← lTensor_comp, h]
+  simp
+
+/-- A `R`-module isomorphic to a flat `R`-module is flat. -/
+lemma of_iso [f : Flat R M] (e : N ≃ₗ[R] M) : Flat R N := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/Flat.lean:135]:
```suggestion
lemma of_equiv [f : Flat R M] (e : N ≃ₗ[R] M) : Flat R N := by
```
We usually use this naming distinction, where `equiv` is used for (linear) equivalences, and `iso` is used for categorical isomorphisms. Of course there is no mathematical distinction, but in Lean these are two different (isomorphic) types.

File: Mathlib/RingTheory/Flat.lean [hunk 9]
```diff
@@ -76,6 +91,121 @@ instance self (R : Type u) [CommRing R] : Flat R R :=
...
+instance finsupp (ι : Type v) : Flat R (ι →₀ R) :=
+  let _ := Classical.decEq ι
+  of_iso R _ _ (finsuppLEquivDirectSum R R ι)
+
+variable (M : Type v) [AddCommGroup M] [Module R M]
+
+instance of_free [Free R M] : Flat R M := of_iso R _ _ (Free.repr R M)
+
+/-- A projective module with a discrete type of generator is flat -/
+lemma of_projective_surj (ι : Type w) [Projective R M] (p : (ι →₀ R) →ₗ[R] M) (hp : Surjective p) :
```
Comment (jcommelin) [inline Mathlib/RingTheory/Flat.lean:198]:
```suggestion
lemma of_projective_of_surjective (ι : Type w) [Projective R M] (p : (ι →₀ R) →ₗ[R] M) (hp : Surjective p) :
```

File: Mathlib/RingTheory/Flat.lean [hunk 10]
```diff
@@ -23,6 +28,14 @@ This result is not yet formalised.
 
 * `Module.Flat`: the predicate asserting that an `R`-module `M` is flat.
 
+## Main theorems
+
+* `Module.Flat.of_retract`: retracts of flat modules are flat
+* `Module.Flat.of_iso`: modules isomorphic to a flat modules are flat
```
Comment (jcommelin) [inline Mathlib/RingTheory/Flat.lean:34]: If you change the name `of_iso` below, please update this doc.

File: Mathlib/RingTheory/Flat.lean [hunk 11]
```diff
@@ -76,6 +91,121 @@ instance self (R : Type u) [CommRing R] : Flat R R :=
       lift.tmul, Submodule.subtype_apply, Algebra.id.smul_eq_mul, lsmul_apply]⟩
 #align module.flat.self Module.Flat.self
 
+variable (M : Type v) [AddCommGroup M] [Module R M]
+
+/-- A reformulation of the flat property. -/
```
Comment (jcommelin) [inline Mathlib/RingTheory/Flat.lean:96]: If you add a docstring to this lemma, please add a bit more detail: rephrasing the flat property as <put details here>. That way it will be more useful to readers of the docstring.

Comment (robin-carlier) [reply Mathlib/RingTheory/Flat.lean:96]: As this is simply rephrasing the definition in term of the other possible definition of the canonical map, perhaps no docstring is actually a better solution.

File: Mathlib/RingTheory/Flat.lean (hunk 8 above)
Comment (robin-carlier) [reply Mathlib/RingTheory/Flat.lean]: I’ll change it to `of_linearEquiv` then.

**Comment by jcommelin** [comment]
Thanks :tada: 

If CI passes, please remove the label `awaiting-CI` and merge this yourself, by adding a comment `bors r+`.

bors d+

**Comment by eric-wieser** [comment]
bors r-

bors d+

(I'd like to get the bump to Lean 4.3.0rc1 on the queue)

**Comment by eric-wieser** [comment]
bors merge
